US06617346B1
To a solution of 8-bromo-chroman (1.434 g, 6.730 mmol, prepared from 2,6-dibromo-phenol using the procedure reported by Thomas, G. H. et al. Tetrahedron Lett. 1998, 39, 2219-22) in dimethylformamide (10 mL) at room temperature was added zinc cyanide (790 mg, 6.730 mmol). The mixture was degassed by passing argon through for 2 h before tetrakis(triphenylphosphine)palladium (778 mg, 0.673 mmol) was added. The reaction mixture was heated at 90° C. for 12 h. Upon cooling to room temperature, it was diluted with diethyl ether (100 mL) and washed with sodium bicarbonate, brine and dried over anhydrous sodium sulfate. The solid was filtered off, and the filtrate was concentrated in vacuo. Purification of the crude residue by flash chromatography (Biotage system, KP-Sil™ 32-63 μm, 60 Å silica gel) eluting with 10-20% ethyl acetate in hexanes yielded chroman-8-carbonitrile (370 mg, 35%).

reactant | 8-bromo-chroman | BrC=1C=CC=C2CCCOC12 | C9H9BrO
reactant | 2,6-dibromo-phenol | BrC1=C(C(=CC=C1)Br)O | C6H4Br2O
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
catalyst | zinc cyanide | 6.730 mmol, 790 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 0.673 mmol, 778 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | chroman-8-carbonitrile | 370 mg, 35% | O1CCCC2=CC=CC(=C12)C#N | C10H9NO
